US04863938
2.3 g (14 mmol) of N-(2-hydroxy-6-pyridyl)-N'-cyanoformamidine are added in portions at room temperature over a period of 20 minutes to a stirred solution of 8.3 ml (99 mmol) of n-propylamine in 8 ml of water The reaction mixture is stirred for 2 hours at room temperature It is then extracted three times with chloroform The combined organic phases are dried over MgSO4 and concentrated by evaporation. The resulting crude product is chromatographed on silica gel with methylene chloride and then crystallised from ether/n-hexane. N-(2-pyridon-6-yl)-N'-propylformamidine and N-(2-hydroxy-6-pyridyl)-N'-propylformamidine having a melting point of 178°-179° are obtained.

reactant | N-(2-hydroxy-6-pyridyl)-N'-cyanoformamidine | 14 mmol, 2.3 g | OC1=NC(=CC=C1)NC=NC#N | C7H6N4O
reactant | n-propylamine | 99 mmol, 8.3 ml | C(CC)N | C3H9N
solvent | water | 8 ml | O | H2O
product | N-(2-hydroxy-6-pyridyl)-N'-propylformamidine | OC1=NC(=CC=C1)NC=NCCC | C9H13N3O
